US05846951
(a) Preparation of 2-bromohexadecanoic acid phenylester
2-Bromohexadecanoic acid (1 g) was dissolved in dry chloroform (20 ml). After addition of 2,4,6 trichlorophenol (0.558 g), the reaction mixture was placed in an ice bath. Dicyclohexylcarbodiimide (0.736 g) dissolved in dry chloroform (2 ml) was added to the solution. After stirring the solution for 15 minutes in an ice bath, the temperature was adjusted to 20° C. Formation of the product was ascertained by thin layer chromatography on silicic-acid plates with dichloromethane/methanol (10:0.1 v/v) mixture as solvent. The solution was stirred for 24 h at 20° C. and the precipitated urea removed by filtration. The filtrate was washed twice with sodium bicarbonate (0.05M) solution and water. The crude reaction product was purified by liquid chromatography on silica gel using the same solvent system as eluent.

reactant | 2-Bromohexadecanoic acid | 1 g | BrC(C(=O)O)CCCCCCCCCCCCCC | C16H31BrO2
reactant | 2,4,6 trichlorophenol | 0.558 g | ClC1=C(C(=CC(=C1)Cl)Cl)O | C6H3Cl3O
reactant | Dicyclohexylcarbodiimide | 0.736 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane methanol | ClCCl.CO
product | 2-bromohexadecanoic acid phenylester | C1(=CC=CC=C1)OC(C(CCCCCCCCCCCCCC)Br)=O | C22H35BrO2
